US05723614
A solution of 3 g of ethyl 5-(4-tert-butoxycarbonyl-1-piperazinyl)benzofuran-2-carboxylate in 100 ml of N-methylpyrrolidone is stirred for 5 hours with 1 g of formamide and 3 g of sodium alkoxide. After customary working up, 5-(4-tert-butoxycarbonyl-1-piperazinyl)benzofuran-2-carboxamide, m.p. 198°-200°, is obtained.

reactant | ethyl 5-(4-tert-butoxycarbonyl-1-piperazinyl)benzofuran-2-carboxylate | 3 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C=1C=CC2=C(C=C(O2)C(=O)OCC)C1 | C20H26N2O5
reactant | formamide | 1 g | C(=O)N | CH3NO
solvent | N-methylpyrrolidone | 100 ml | CN1C(CCC1)=O | C5H9NO
product | 5-(4-tert-butoxycarbonyl-1-piperazinyl)benzofuran-2-carboxamide | C(C)(C)(C)OC(=O)N1CCN(CC1)C=1C=CC2=C(C=C(O2)C(=O)N)C1 | C18H23N3O4
